US06297258B1
4-Thiazolidin-3-yl-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
A mixture of 250 mg (0.51 mmol) of 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide, and 80 μL (1.02 mmol) of thiazolidine in 2.25 ml dimethylformamide was stirred at room temperature for 19.5 hr. After the mixture was cooled, the suspension was diluted with saturated sodium bicarbonate solution and extracted with ethyl acetate. The extracts were evaporated to an oil and purified by preparative TLC to yield 95.6 mg (38%) yellow solid: mp 135-138° C.

reactant | 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 0.51 mmol, 250 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCBr)=O)OC)C#N | C21H15BrClFN4O2
reactant | thiazolidine | 1.02 mmol, 80 μL | S1CNCC1 | C3H7NS
solvent | dimethylformamide | 2.25 ml | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-Thiazolidin-3-yl-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 95.6 mg, 38% | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN1CSCC1)=O)OC)C#N | C24H21ClFN5O2S
